US05939448
A suspension of 60% NaH (3.95 g, 0.1 mol) in THF (60 ml)-DMSO (120 ml) was heated to an external temperature of 50° C., followed by the addition of trimethylsulfoxonium iodide (21.7 g, 0.1 mol) in portions. The resulting mixture was stirred for 15 minutes at the same temperature and was then cooled to -20° C. To the reaction mixture, a solution of 2-(2-acetoxyethyl)thio-2,2-difluoro-2',4'-difluoroacetophenone (25.5 g, 0.08 mol) in THE (60 ml) was added dropwise. After being stirred at room temperature for 1.5 hours, the reaction mixture was poured into ice water, followed by extraction with ethyl ether. The ether solution was washed with water, dried over magnesium sulfate and then distilled off under reduced pressure, whereby 1-(2-acetoxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-2,3-epoxypropane (24.0 g, yield: 90.0%) was obtained as a pale yellow oil.

reactant | NaH | 0.1 mol, 3.95 g | [H-].[Na+]
reactant | DMSO | 120 ml | CS(=O)C | C2H6OS
reactant | trimethylsulfoxonium iodide | 0.1 mol, 21.7 g | [I-].C[S+](=O)(C)C
reactant | 2-(2-acetoxyethyl)thio-2,2-difluoro-2',4'-difluoroacetophenone | 0.08 mol, 25.5 g | C(C)(=O)OCCSC(C(=O)C1=C(C=C(C=C1)F)F)(F)F | C12H10F4O3S
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 1-(2-acetoxyethyl)thio-2-(2,4-difluorophenyl)-1,1-difluoro-2,3-epoxypropane | 24.0 g, yield: 90.0% | C(C)(=O)OCCSC(C1(CO1)C1=C(C=C(C=C1)F)F)(F)F | C13H12F4O3S
